### PR TITLE
feat(LinearAlgebra/DirectSum/Finsupp) : tensor products of finsupp functions

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
## Modules

* `TensorProduct.finsuppLeft`, the tensor product of `ι →₀ M` and `N` is linearly equivalent to `ι →₀ M ⊗[R] N`

* `TensorProduct.finsuppScalarLeft`, the tensor product of `ι →₀ R` and `N` is linearly equivalent to `ι →₀ N`

* `TensorProduct.finsuppRight`, the tensor product of `M` and `ι →₀ N` is linearly equivalent to `ι →₀ M ⊗[R] N`

* `TensorProduct.finsuppLeft'`, if `M` is an `S`-module, then the tensor product of `ι →₀ M` and `N` is `S`-linearly equivalent to `ι →₀ M ⊗[R] N`

## Monoid algebras

* `MonoidAlgebra.rTensorAlgEquiv`: the tensor product of `MonoidAlgebra M α` with `N` is `R`-linearly equivalent  to `MonoidAlgebra (M ⊗[R] N) α`

* `MonoidAlgebra.scalarRTensorAlgEquiv`, the tensor product of `MonoidAlgebra R α` with `N` is `R`-linearly equivalent to `MonoidAlgebra N α`

## Case of MvPolynomial

These functions apply to `MvPolynomial`, one can define
```
noncomputable def MvPolynomial.rTensor' :
    MvPolynomial σ S ⊗[R] N ≃ₗ[S] (σ →₀ ℕ) →₀ (S ⊗[R] N) :=
  TensorProduct.finsuppLeft'

noncomputable def MvPolynomial.rTensor :
    MvPolynomial σ R ⊗[R] N ≃ₗ[R] (σ →₀ ℕ) →₀ N :=
  (MvPolynomial.rTensor' σ (S := R) (N := N) (R := R)).trans
    (Finsupp.mapRange.linearEquiv (TensorProduct.lid R N))
```

A proposition in this direction is given in `LinearAlgebra/TensorProduct/MvPolynomial`

## Case of `Polynomial`

`Polynomial` is a structure containing a `Finsupp`, so these functions
can't be applied directly to `Polynomial`.

Some linear equivs need to be added to mathlib for that.

A proposition in this direction is given in `LinearAlgebra.TensorProduct.Polynomial`

---

## TODO

* reprove `TensorProduct.finsuppLeft'` using existing heterobasic version of `TensorProduct.congr`

* align what has been done for monoid agebras with what is missing for MvPolynomial or Polynomial

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 1]
```diff
@@ -24,36 +58,134 @@ open DirectSum
...
 
 section TensorProduct
 
 open TensorProduct
 
-open TensorProduct
+variable {ι : Type*} [DecidableEq ι]
+
+/-- The tensor product of `i →₀ M` and `N` is linearly equivalent to `i →₀ M ⊗[R] N` -/
+noncomputable def Finsupp.rTensor :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:71]: Arguably this should be called `TensorProduct.finsuppLeft` for consistency with `TensorProduct.directSumLeft` and `TensorProduct.prodLeft`, and similarly for `Right`

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 2]
```diff
@@ -24,36 +58,134 @@ open DirectSum
...
+    (finsuppLEquivDirectSum S M ι) (LinearEquiv.refl R N)).trans
+    (f.trans (finsuppLEquivDirectSum S (M ⊗[R] N) ι).symm) -/
 
 open scoped Classical in
 -- `noncomputable` is a performance workaround for mathlib4#7103
 /-- The tensor product of `ι →₀ M` and `κ →₀ N` is linearly equivalent to `(ι × κ) →₀ (M ⊗ N)`. -/
-noncomputable def finsuppTensorFinsupp (R M N ι κ : Sort _) [CommRing R] [AddCommGroup M]
-    [Module R M] [AddCommGroup N] [Module R N] : (ι →₀ M) ⊗[R] (κ →₀ N) ≃ₗ[R] ι × κ →₀ M ⊗[R] N :=
+noncomputable def finsuppTensorFinsupp (R M N ι κ : Sort _) [CommSemiring R] [AddCommMonoid M]
+    [Module R M] [AddCommMonoid N] [Module R N] : (ι →₀ M) ⊗[R] (κ →₀ N) ≃ₗ[R] ι × κ →₀ M ⊗[R] N :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:172]: Can you make these generalizations in a separate PR, so that we can measure their performance impact? I think it was written this way in mathlib3 because it timed out otherwise.

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:71]: (I had to check for the actual meaning of “Arguably” ! — it doesn't mean one can argue, and indeed, i won't…)

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:172]: I can, but the rest of mathlib compiled swiftly here. (These are almost not used, I believe).

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean]: done…

**Comment by AntoineChambert-Loir** [comment]
I am presently trying to prove the multiplicativity. 
I will put it in another file (RingTheory/MonoidAlgebra/TensorProduct)

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 3]
```diff
@@ -12,29 +12,234 @@ import Mathlib.LinearAlgebra.DirectSum.TensorProduct
...
-open TensorProduct
+variable {R : Type*} [CommSemiring R]
+  {M : Type*} [AddCommMonoid M] [Module R M]
+  {N : Type*} [AddCommMonoid N] [Module R N]
+
+namespace TensorProduct
+
+variable {ι : Type*} [DecidableEq ι]
+
+/-- The tensor product of `i →₀ M` and `N` is linearly equivalent to `i →₀ M ⊗[R] N` -/
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:81]:
```suggestion
/-- The tensor product of `ι →₀ M` and `N` is linearly equivalent to `ι →₀ M ⊗[R] N` -/
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 4]
```diff
@@ -12,29 +12,234 @@ import Mathlib.LinearAlgebra.DirectSum.TensorProduct
...
+  · intro _
+    simp
+
+lemma finsuppLeft_symm_apply_single (i : ι) (m : M) (n : N) :
+    finsuppLeft.symm (Finsupp.single i (m ⊗ₜ[R] n)) =
+      Finsupp.single i m ⊗ₜ[R] n := by
+  simp [finsuppLeft, Finsupp.lsum]
 
-open TensorProduct
+/-- The tensor product of `M` and `i →₀ N` is linearly equivalent to `i →₀ M ⊗[R] N` -/
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:115]:
```suggestion
/-- The tensor product of `M` and `ι →₀ N` is linearly equivalent to `ι →₀ M ⊗[R] N` -/
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 5]
```diff
@@ -12,29 +12,234 @@ import Mathlib.LinearAlgebra.DirectSum.TensorProduct
...
+
+/- -- TODO : reprove using the existing heterobasic lemmas
+noncomputable example :
+    (ι →₀ M) ⊗[R] N ≃ₗ[S] ι →₀ (M ⊗[R] N) := by
+  have f : (⨁ (i₁ : ι), M) ⊗[R] N ≃ₗ[S] ⨁ (i : ι), M ⊗[R] N := sorry
+  exact (AlgebraTensorModule.congr
+    (finsuppLEquivDirectSum S M ι) (LinearEquiv.refl R N)).trans
+    (f.trans (finsuppLEquivDirectSum S (M ⊗[R] N) ι).symm) -/
+
+/-- The tensor product of `i →₀ R` and `N` is linearly equivalent to `i →₀ N` -/
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:175]:
```suggestion
/-- The tensor product of `ι →₀ R` and `N` is linearly equivalent to `ι →₀ N` -/
```

File: Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean [hunk 6]
```diff
@@ -0,0 +1,420 @@
...
+
+lemma apply_single
+    (e : N →+ P) (a : α) (n : N) (b : α) :
+    e ((single a n) b) = single a (e n) b :=
+  Finsupp.apply_single e a n b
+
+
+/-- RingHom functoriality for the monoid algebra -/
+noncomputable def ringHom (e : N →+* P) :
+    MonoidAlgebra N α →+* MonoidAlgebra P α := {
```
Comment (alreadydone) [inline Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean:91]: The AddMonoidAlgebra version was done [here](https://github.com/leanprover-community/mathlib4/pull/7219/files#diff-ef701cddec9d543cfb4ea50b0bf2519305cc560a464990b50b13dca605614a1cR19-R20) in #7219 with more general typeclass assumptions. I think `RingHom.mapMonoidAlgebra` is probably a better name, as it allows dot notations. I don't agree with the name `ringHomCongrLeft` in #7219 since `congr` should be reserved for equalities or Equiv.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean]: I generalized to allow `MulOneClass`.
Regarding the names, I don't feel responsible for somebody elses' PR but will obey suggestions.

**Comment by mattrobball** [comment]
!bench

**Comment by acmepjz** [comment]
Is it possible to split the changes in `Mathlib/LinearAlgebra/DirectSum/Finsupp.lean` as a separate PR? Probably my #11598 depends on it.

**Comment by AntoineChambert-Loir** [comment]
Not it's not really possible, that's the whole goal of having these results `Mathlib/LinearAlgebra/DirectSum/Finsupp.lean` to be able to have the other ones.
Or I make two different PR, one with that file `Mathlib/LinearAlgebra/DirectSum/Finsupp.lean`, and then with the applications. But my take is that the worthiness of the first file is judged by whether it fits the other ones.

**Comment by acmepjz** [comment]
> Or I make two different PR, one with that file `Mathlib/LinearAlgebra/DirectSum/Finsupp.lean`, and then with the applications. 

It's best if the changes in `Mathlib/LinearAlgebra/DirectSum/Finsupp.lean` belongs a PR, and then your current PR (which can have further changes to that file) as well as my #11598 depend on that. Hopefully the changes in that single file will be approved quickly, as the current PR has more than 1000 lines.

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 7]
```diff
@@ -12,20 +12,264 @@ import Mathlib.LinearAlgebra.DirectSum.TensorProduct
...
+  rw [LinearEquiv.symm_apply_eq]
+  simp only [map_finsupp_sum]
+  simp only [finsuppLEquivDirectSum_single]
+  rw [← LinearEquiv.eq_symm_apply]
+  simp only [map_finsupp_sum]
+  simp only [directSumLeft_symm_lof_tmul]
+  simp only [Finsupp.sum, sum_tmul]
+
+lemma finsuppLeft_apply_tmul_apply (p : ι →₀ M) (n : N) (i : ι) :
+    finsuppLeft (p ⊗ₜ[R] n) i = p i ⊗ₜ[R] n := by
```
Comment (acmepjz) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:99]: Is it a good idea to mark `finsuppLeft_apply_tmul_apply`, `finsuppLeft_symm_apply_single`, `finsuppRight_apply_tmul_apply`, `finsuppRight_symm_apply_single`, `finsuppScalarLeft_apply_tmul_apply`, `finsuppScalarLeft_symm_apply_single`, `finsuppScalarRight_apply_tmul_apply`, `finsuppScalarRight_symm_apply_single` as simp lemmas? Just like the existing `finsuppTensorFinsupp_single`, `finsuppTensorFinsupp_apply` and `finsuppTensorFinsupp_symm_single`.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:99]: I have no opinion.

**Comment by AntoineChambert-Loir** [comment]
> Is it possible to split the changes in `Mathlib/LinearAlgebra/DirectSum/Finsupp.lean` as a separate PR? Probably my #11598 depends on it.

 #11635

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:99]: In #11635 , I marked them with simp

File: Mathlib/RingTheory/TensorProduct/Polynomial.lean [hunk 8]
```diff
@@ -0,0 +1,340 @@
...
+    IsLinearMap S (TensorProduct.congr (e.restrictScalars R) f) :=
+  TensorProduct.map_isLinearMap' e.toLinearMap f.toLinearMap -/
+
+/-
+lemma LinearEquiv.rTensor_isLinearMap'
+    [Module S M] [IsScalarTower R S M] [Module S N] [IsScalarTower R S N]
+    (P : Type*) [AddCommMonoid P] [Module R P] (e : M ≃ₗ[S] N) :
+    IsLinearMap S (LinearEquiv.rTensor P (e.restrictScalars R)) :=
+  TensorProduct.map_isLinearMap' e.toLinearMap _
+-/
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Polynomial.lean:142]: Are these supposed to be here?
And is it possible to split the PR into three, considering there are three new files added?

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/Polynomial.lean:142]: See #12292, #12293 and #12294

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/Polynomial.lean:142]: I suppose this PR can be closed now.
